US05312828
(IV) (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-butenoic acid
A solution of ethyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-butenoate (623 mg, 1.38 mmol) in ethanol (25 mL) under argon was treated with 10% sodium hydroxide solution (20 mL), and then stirred for 1 hour at room temperature. An additional 25 mL of 10% sodium hydroxide were added and the mixture was stirred overnight at ambient temperature. Acidification to pH 4 with dilute hydrochloric acid solution followed by extraction with methylene chloride and washing with water gave after drying and workup, 630 mg of crude product. Trituration with ethyl acetate/ether provided the title compound (302 mg, 52%), mp 206°-207° C., as the white hydrochloride salt.

reactant | ethyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-butenoate | 1.38 mmol, 623 mg | C(CCC)C=1N(C(=CN1)/C(=C(/C(=O)OCC)\CC1=CC=CC=C1)/C)CC1=C(C=CC=C1)Cl | C27H31ClN2O2
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
reactant | sodium hydroxide | 25 mL | [OH-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-butenoic acid | 302 mg, 52% | C(CCC)C=1N(C(=CN1)/C(=C(/C(=O)O)\CC1=CC=CC=C1)/C)CC1=C(C=CC=C1)Cl | C25H27ClN2O2
